US08044052B2
Phenyl pyridazin-3-ylcarbamate
To a suspension of pyridazin-3-amine (5 g, 50 mmol) in THF (50 mL) and CH3CN (70 mL) was added pyridine (5.10 mL, 63.1 mmol) followed by phenyl chloroformate (6.95 mL, 55.2 mmol) slowly. The reaction was stirred overnight. The reaction was filtered to remove the precipitate. The filtrate was concentrated and then taken up in CH2Cl2 which was washed with water. The organic layer was dried using SPE phase separators and concentrated. The residue was purified by silica gel column chromatography (0-5% MeOH/CH2Cl2). An undesired side product eluted first followed by the title compound which was concentrated to give a white solid (7.5 g, 70% yield). MS (APCI 10 V) AP+1 216.12; 1H NMR (400 MHz, DMSO-d6) δ ppm 7.20-7.24 (m, 2H) 7.25-7.28 (m, 1H) 7.39-7.44 (m, 2H) 7.64-7.69 (m, 1H) 8.05 (dd, 1H) 8.94 (dd, 1H) 11.34 (s, 1H).

reactant | pyridazin-3-amine | 50 mmol, 5 g | N1=NC(=CC=C1)N | C4H5N3
reactant | pyridine | 63.1 mmol, 5.10 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 55.2 mmol, 6.95 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | CH3CN | 70 mL | CC#N | C2H3N
product | Phenyl pyridazin-3-ylcarbamate | 7.5 g, 70% yield | N1=NC(=CC=C1)NC(OC1=CC=CC=C1)=O | C11H9N3O2
